US04016165
In the manner given in Example 1, 7-bromo-2-hydrazino-5-(2-pyridyl)-3H-1,4-benzodiazepine can be reacted with chloropropanone to give 7-bromo-2-[(2-chloro-1-methylethylidene)hydrazino]-5-(2-pyridyl)-3H-1,4-benzodiazepine.

reactant | 7-bromo-2-hydrazino-5-(2-pyridyl)-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NN)C2=NC=CC=C2)C1 | C14H12BrN5
reactant | chloropropanone | ClCC(C)=O | C3H5ClO
product | 7-bromo-2-[(2-chloro-1-methylethylidene)hydrazino]-5-(2-pyridyl)-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NN=C(CCl)C)C2=NC=CC=C2)C1 | C17H15BrClN5
